US06465478B1
As shown in Scheme 2, Compounds (I) wherein R is hydrogen can be prepared from a piperidine-4-one (V) through a compound (VI) according to known procedures as described in U.S. Pat. No. 3,238,216. First, the compound (V) can be reacted with a hydrochloric acid salt of an amino compound (VII) (i.e., XNH2) in the presence of a suitable cyanating agent such as potassium cyanide (KCN), to give the compound (VI). This reaction can be carried out in a suitable reaction inert solvent such as water at 0° to 50° C. for 30 min. to 7 days. Then, the compound (VI) may be treated with sulfuric acid at 0° to 100° C. for 30 min. to 10 hours, followed by reaction with formamide (HCONH2). The reaction with formamide may be carried out at 150° to 250° C. for 30 min. to 20 hours. If a mixture of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one derivative and 1-phenyl-1,3,8-triazaspiro[4.5]dec-2-en-4-one derivative is obtained in this reaction condition, the mixture may be treated with a reducing reagent such as sodium borohydride (NaBH4) to give desired 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one derivative.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | formamide | C(=O)N | CH3NO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | water | O | H2O
product | 1-phenyl-1,3,8-triazaspiro[4.5]dec-2-en-4-one | C1(=CC=CC=C1)N1C=NC(C12CCNCC2)=O | C13H15N3O
